US05821240
(18) 4-[(4-Amino-3,5-dichlorophenyl)amino]-6-[trans-4-(pyrrolidinocarbonyl)cyclohexylamino]pyrimido[5,4-d]pyrimidine
Prepared from 4-[(4-amino-3,5-dichlorophenyl)amino]-6-[(trans-4-carboxycyclohexyl)amino]pyrimido[5,4-d]pyrimidine by reaction with O-(benzotriazol-1-yl)-N,N,N',N'-tetramethyluronium tetrafluoroborate, triethylamine and pyrrolidine. Melting point: 228°-230° C,; Rf : 0.43 (silica gel; petroleum ether/ethyl acetate/methanol=10:10:4) Calculated: C 55.09 H 5.23 N 22.35; Found: 55.07 5.19 22.33 14.22

reactant | 4-[(4-amino-3,5-dichlorophenyl)amino]-6-[(trans-4-carboxycyclohexyl)amino]pyrimido[5,4-d]pyrimidine | NC1=C(C=C(C=C1Cl)NC=1C2=C(N=CN1)C=NC(=N2)N[C@@H]2CC[C@H](CC2)C(=O)O)Cl | C19H19Cl2N7O2
reactant | O-(benzotriazol-1-yl)-N,N,N',N'-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-[(4-Amino-3,5-dichlorophenyl)amino]-6-[trans-4-(pyrrolidinocarbonyl)cyclohexylamino]pyrimido[5,4-d]pyrimidine | NC1=C(C=C(C=C1Cl)NC=1C2=C(N=CN1)C=NC(=N2)N[C@@H]2CC[C@H](CC2)C(=O)N2CCCC2)Cl | C23H26Cl2N8O
